US08067445B2
Step 4: {2′-[(Acetyl-phenyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (6-methoxy-2′-phenylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and acetyl chloride.

reactant | (6-methoxy-2′-phenylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNC1=CC=CC=C1)=O | C24H22F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[(Acetyl-phenyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=CC=CC=C1)C(C)=O)=O | C26H24F3NO4
